US08686005B2
2-(4-Chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-6-(2-dimethylamino-1-methyl-ethyl)-1H-1,3,6-triaza-s-indacene-5,7-dione:
The mixture of 5-amino-2-(2-dimethylamino-1-methyl-ethyl)-6-nitro-isoindole-1,3-dione (585 mg, 2.0 mmol) and Pd/C (60 mg) in MeOH (95 mL) was stirred under atmospheric H2 for 2.5 h and filtered through Celite. The filtrate was mixed with 4-chloro-2-methoxynicotinic aldehyde (343.2 mg, 2.0 mmol) and HOAc (5 mL), stirred at the room temperature for 62 h, and evaporated under reduced pressure to afford an oil crude which was mixed with HCl in dioxane (4 M, 25 mL) and H2O (2 mL), heated at 70° C. for 1 h and evaporated. The residue was diluted with a mixed solvent of MeOH/DCM (50 mL/50 mL), basified with 28% aqueous NH4OH, and concentrated. Chromatography of the residue with CH2Cl2/MeOH/28% aqueous NH4OH (60:10:1) afforded the title compound (642 mg, 80%). 1H NMR (DMSO-d6) δ 1.39 (d, J=6 Hz, 3H, CH3), 2.14 (s, 6H, 2CH3), 2.29 (m, 1H), 3.04 (m, 1H), 4.40 (m, 1H), 6.59 (d, J=8 Hz, 1H), 7.69 (d, J=8 Hz, 1H), 8.04 (s, 1H), 8.05 (s, 1H); ESI-MS m/z 400.3 (MH+).

reactant | 5-amino-2-(2-dimethylamino-1-methyl-ethyl)-6-nitro-isoindole-1,3-dione | 2.0 mmol, 585 mg | NC=1C=C2C(N(C(C2=CC1[N+](=O)[O-])=O)C(CN(C)C)C)=O | C13H16N4O4
reactant | HOAc | 5 mL | CC(=O)O | C2H4O2
reactant | HCl | Cl | ClH
reactant | MeOH | 95 mL | CO | CH4O
solvent | dioxane | 4 M, 25 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 2 mL | O | H2O
catalyst | Pd/C | 60 mg | [Pd] | Pd
product | 2-(4-Chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-6-(2-dimethylamino-1-methyl-ethyl)-1H-1,3,6-triaza-s-indacene-5,7-dione | 642 mg, 80% | ClC1=C(C(NC=C1)=O)C=1NC2=CC=3C(N(C(C3C=C2N1)=O)C(CN(C)C)C)=O | C19H18ClN5O3
